US07256288B2
3-Amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-4-iodobenzamide
A solution of 100 mg (0.25 mmol) of N-(1-azabicyclo[2.2.2]oct-3-yl)-4-iodo-3-nitrobenzamide and 281 mg (1.25 mmol) of tin(II) chloride dihydrate in 5 ml of DMF was stirred at room temperature for 6 h. The solvent was distilled off in a rotary evaporator, the residue was taken up in 10 ml of dichloromethane, and 10 ml of aqueous 1 M sodium hydroxide solution were added. The organic phase was dried over sodium sulfate, and the solvent was distilled off in a rotary evaporator. 91 mg (98%) of the desired title compound were obtained.

reactant | N-(1-azabicyclo[2.2.2]oct-3-yl)-4-iodo-3-nitrobenzamide | 0.25 mmol, 100 mg | N12CC(C(CC1)CC2)NC(C2=CC(=C(C=C2)I)[N+](=O)[O-])=O | C14H16IN3O3
reactant | tin(II) chloride dihydrate | 1.25 mmol, 281 mg | O.O.[Sn](Cl)Cl
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-Amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-4-iodobenzamide | 91 mg, 98% | NC=1C=C(C(=O)NC2CN3CCC2CC3)C=CC1I | C14H18IN3O
